US06583146B1
N-[4-[4-(1,1-Dimethylethyl)phenyl]-5-(4-pyridyl)-1,3-thiazol-2-yl]-2-chloroacetamide Hydrochloride
Chloroacetyl chloride (0.55 g, 4.85 mmol) was added to a solution of [4-[4-(1,1-dimethylethyl)phenyl]-5-(4-pyridyl)-1,3-thiazol-2-yl]amine (1.0 g, 3.23 mmol) in N,N-dimethylacetaminde (10 mL) and the mixture was stirred at 60° C. for 14 hours. The solvent was concentrated under reduced pressure and the resultant residue was washed with ether and dried. The crude crystals obtained was recrystallized from ethanol to obtain the title compound (0.94 g, yield 69%).

reactant | Chloroacetyl chloride | 4.85 mmol, 0.55 g | ClCC(=O)Cl | C2H2Cl2O
reactant | [4-[4-(1,1-dimethylethyl)phenyl]-5-(4-pyridyl)-1,3-thiazol-2-yl]amine | 3.23 mmol, 1.0 g | CC(C)(C)C1=CC=C(C=C1)C=1N=C(SC1C1=CC=NC=C1)N | C18H19N3S
product | N-[4-[4-(1,1-Dimethylethyl)phenyl]-5-(4-pyridyl)-1,3-thiazol-2-yl]-2-chloroacetamide Hydrochloride | 0.94 g, yield 69% | Cl.CC(C)(C)C1=CC=C(C=C1)C=1N=C(SC1C1=CC=NC=C1)NC(CCl)=O | InChI=1S/C20H20ClN3OS.ClH/c1-20(2,3)15-6-4-13(5-7-15)17-18(14-8-10-22-11-9-14)26-19(24-17)23-16(25)12-21;/h4-11H,12H2,1-3H3,(H,23,24,25);1H
